US07494992B2
Preparation 146: 3-{[(3,4-difluorophenyl)methyl]oxy}piperidine
1,1-dimethylethyl 3-{[(3,4-difluorophenyl)methyl]oxy}piperidine-1-carboxylate (Preparation 145, 3.38 g, 10.3 mmol) was dissolved in methanol (100 ml) and cooled 5 to 0° C., hydrogen chloride gas was bubbled into the reaction mixture for 3-5 min. The reaction mixture was concentrated in vacuo to give an oil, upon tituration with diethyl ether a white solid formed. The solid was separated by filtration to give the title compound (1.78 g, 65%) as the hydrochloride salt.

reactant | 1,1-dimethylethyl 3-{[(3,4-difluorophenyl)methyl]oxy}piperidine-1-carboxylate | 10.3 mmol, 3.38 g | FC=1C=C(C=CC1F)COC1CN(CCC1)C(=O)OC(C)(C)C | C17H23F2NO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 100 ml | CO | CH4O
product | 3-{[(3,4-difluorophenyl)methyl]oxy}piperidine | 1.78 g, 65% | FC=1C=C(C=CC1F)COC1CNCCC1 | C12H15F2NO
